US06518257B1
(i) Production of 4′-fluoro[1,1′-biphenyl]-2-yl methyl ether
By the reaction in the same manner as in Example 4-(ii) using 2-bromoanisole (8.91 g), 4-fluorophenylboronic acid (10.0 g), 2M aqueous sodium carbonate solution (47.6 ml) and tetrakis(triphenylphosphine)palladium(0) (2.20 g), the title compound (8.14 g) was obtained as colorless needle crystals.

reactant | 2-bromoanisole | 8.91 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | 4-fluorophenylboronic acid | 10.0 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 47.6 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-fluoro[1,1′-biphenyl]-2-yl methyl ether | 8.14 g | COC=1C(=CC=CC1)C1=CC=C(C=C1)F | C13H11FO
